US09371314B2
Benzothiophene-5-carboxylic acid (2 g, 11.2 mmol, 1 eq) was dissolved in anhydrous THF (50 mL). To the solution was added dropwise tert-BuLi petane solution (1.7M, 20 mL, 3 eq) at −78° C. for 5 minutes under nitrogen atmosphere. The reaction mixture was allowed to warm to room temperature, stirred for 30 minutes, and cooled to −78° C. again, followed by an addition of triisopropyl borate (3.97 mL, 1.5 eq). The reaction was then allowed to warm to room temperature and stirred at that temperature for one hour. To the reaction mixture was added saturated aqueous ammonium chloride (50 mL) and 10% aqueous potassium hydrogensulfate solution (50 mL) to adjust pH to 2. After the mixture was stirred at room temperature for 30 minutes, it was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The upper solution was decanted, concentrated, and the residue was suspended in Hexane/CHCl3/MeOH (40:4:1). The solid was filtered, rinsed with hexane. 2-(dihydroxyboryl)-1-benzothiophene-5-carboxylic acid was obtained as a grayish solid in amount of 1.325 g (53%).

reactant | Benzothiophene-5-carboxylic acid | 11.2 mmol, 2 g, 1 eq | S1C=CC2=C1C=CC(=C2)C(=O)O | C9H6O2S
reactant | tert-BuLi | [Li]C(C)(C)C
reactant | triisopropyl borate | 3.97 mL, 1.5 eq | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | potassium hydrogensulfate | 50 mL | S(=O)(=O)(O)[O-].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(dihydroxyboryl)-1-benzothiophene-5-carboxylic acid | OB(C=1SC2=C(C1)C=C(C=C2)C(=O)O)O | C9H7BO4S
